US07129238B2
To a stirred, cooled (−78° C.) solution of (2,4-difluoro-phenyl)-carbamic acid tert-butyl ester (5 g) in THF (50 ml) under an argon atmosphere was added dropwise a 1.6 M solution of BuLi in hexanes (28.6 ml) for 20 min (temperature below −68° C. during the addition). When addition was complete, the mixture (turning to orange, then to light red) was stirred at −78° C. for 1 h 30. DMF (7.55 ml) was then added for 10 min (temperature below −70° C.) and stirring at −78° C. was continued for 15 min. As the mixture had turned to a compact mas (no more stirring), it was allowed to warm to room temperature. Water (50 ml) was added and the pH was set to 3 by the dropwise addition of 3 N HCl. EtOAc (50 ml) was added. The organic phase was washed with water and brine dried over MgSO4, filtered and concentrated. The crude product was purified by flash chromatography (cyclohexane=>cyclohexane/EtOAc 85:15) to give (2,4-difluoro-3-formyl-phenyl)-carbamic acid tert-butyl ester (1.75 g) as an off-white solid.

reactant | (2,4-difluoro-phenyl)-carbamic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)F)=O | C11H13F2NO2
reactant | BuLi | [Li]CCCC
reactant | DMF | 7.55 ml | CN(C)C=O | C3H7NO
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | Water | 50 ml | O | H2O
product | (2,4-difluoro-3-formyl-phenyl)-carbamic acid tert-butyl ester | 1.75 g | C(C)(C)(C)OC(NC1=C(C(=C(C=C1)F)C=O)F)=O | C12H13F2NO3
